### PR TITLE
[Merged by Bors] - chore: improve defeq for `Sup` and `sSup` of `LieSubmodule`s

### PR DESCRIPTION
**Pull request by ocfnash**
The point is that the following four lemmas are now all true by definition:

- `LieSubmodule.inf_coe_toSubmodule`
- `LieSubmodule.sInf_coe_toSubmodule`
- `LieSubmodule.sup_coe_toSubmodule` [previously existed but not true by definition]
- `LieSubmodule.sSup_coe_toSubmodule` [previously did not exist]

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 1]
```diff
@@ -445,27 +451,71 @@ theorem iInf_coe {ι} (p : ι → LieSubmodule R L M) : (↑(⨅ i, p i) : Set M
...
+/-- The set of Lie submodules of a Lie module form a complete lattice. -/
 instance : CompleteLattice (LieSubmodule R L M) :=
-  { SetLike.instPartialOrder,
-    completeLatticeOfInf _ sInf_glb with
-    le := (· ≤ ·)
-    lt := (· < ·)
-    bot := ⊥
-    bot_le := fun N _ h ↦ by rw [mem_bot] at h; rw [h]; exact N.zero_mem'
-    top := ⊤
+  { sInf_le := fun s a ha ↦ by
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Submodule.lean:508]: Can you get here via `CompleteLattice.lift`?

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 2]
```diff
@@ -445,27 +451,71 @@ theorem iInf_coe {ι} (p : ι → LieSubmodule R L M) : (↑(⨅ i, p i) : Set M
...
+    { toSubmodule := (N : Submodule R M) ⊔ (N' : Submodule R M)
+      lie_mem := by
+        rintro x m (hm : m ∈ (N : Submodule R M) ⊔ (N' : Submodule R M))
+        change ⁅x, m⁆ ∈ (N : Submodule R M) ⊔ (N' : Submodule R M)
+        rw [Submodule.mem_sup] at hm ⊢
+        obtain ⟨y, hy, z, hz, rfl⟩ := hm
+        exact ⟨⁅x, y⁆, N.lie_mem hy, ⁅x, z⁆, N'.lie_mem hz, (lie_add _ _ _).symm⟩ }⟩
+
+instance : SupSet (LieSubmodule R L M) :=
+  ⟨fun S ↦
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Submodule.lean:465]: style nit:
```suggestion
instance : SupSet (LieSubmodule R L M) where
  sSup S :=
```
(and drop the closing `⟩`)

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 3]
```diff
@@ -445,27 +451,71 @@ theorem iInf_coe {ι} (p : ι → LieSubmodule R L M) : (↑(⨅ i, p i) : Set M
...
+    (↑(sSup S) : Submodule R M) = sSup {(s : Submodule R M) | s ∈ S} :=
+  rfl
+
+@[simp]
+theorem iSup_coe_toSubmodule {ι} (p : ι → LieSubmodule R L M) :
+    (↑(⨆ i, p i) : Submodule R M) = ⨆ i, (p i : Submodule R M) := by
+  rw [iSup, sSup_coe_toSubmodule]; ext; simp [Submodule.mem_sSup, Submodule.mem_iSup]
 
-/-- The set of Lie submodules of a Lie module form a complete lattice.
+lemma iSup_induction {ι} (N : ι → LieSubmodule R L M) {C : M → Prop} {x : M}
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Submodule.lean:500]: The primed version of this lemma is the more useful one, as it can be used with the `induction` tactic.

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 4]
```diff
@@ -445,27 +451,71 @@ theorem iInf_coe {ι} (p : ι → LieSubmodule R L M) : (↑(⨅ i, p i) : Set M
...
+instance : SupSet (LieSubmodule R L M) :=
+  ⟨fun S ↦
+    { toSubmodule := sSup {(p : Submodule R M) | p ∈ S}
+      lie_mem := by
+        intro x m (hm : m ∈ sSup {(p : Submodule R M) | p ∈ S})
+        change ⁅x, m⁆ ∈ sSup {(p : Submodule R M) | p ∈ S}
+        obtain ⟨s, hs, hsm⟩ := Submodule.mem_sSup_iff_exists_finset.mp hm
+        clear hm
+        classical
+        induction' s using Finset.induction_on with q t hqt ih generalizing m
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Submodule.lean:473]: Does this work?
```suggestion
        induction' s using Finset.cons_induction_on with q t hqt ih generalizing m
```

Comment (ocfnash) [reply Mathlib/Algebra/Lie/Submodule.lean:473]: It does work but it's immediately less convenient, partly due to a lack of API for dealing with `iSup`s bounded by a disjunction. (The term `hsm` becomes `m ∈ ⨆ (i : Submodule R M) (_ : i = q ∨ i ∈ t), i` rather than `m ∈ ⨆ (i : Submodule R M) (_ : i ∈ insert q t), i` to which I can coveniently apply `Finset.iSup_insert`).

File: Mathlib/Algebra/Lie/Submodule.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Submodule.lean:465]: Thanks, better!

File: Mathlib/Algebra/Lie/Submodule.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Submodule.lean:508]: I can't find `CompleteLattice.lift`: am I being ridiculous?

Comment (eric-wieser) [reply Mathlib/Algebra/Lie/Submodule.lean:508]: Maybe it's `Injective.completeLattice`?

Comment (eric-wieser) [reply Mathlib/Algebra/Lie/Submodule.lean:508]: A good compromise is probably to combine `Injective.completeLattice` with the syntactically superior partial order instance?

File: Mathlib/Algebra/Lie/Submodule.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Submodule.lean]: OK I've added `iSup_induction'` now also.

File: Mathlib/Algebra/Lie/Submodule.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Submodule.lean:502]: I'm not sure if I'm doing this wrong but the following does not solve the problem:
```lean
instance : CompleteLattice (LieSubmodule R L M) :=
  { coeSubmodule_injective.completeLattice toSubmodule sup_coe_toSubmodule inf_coe_toSubmodule
      sSup_coe_toSubmodule' sInf_coe_toSubmodule' rfl rfl with
    toPartialOrder := inferInstanceAs (PartialOrder (LieSubmodule R L M)) }
```
and besides uses `with` in an instance.

Comment (eric-wieser) [reply Mathlib/Algebra/Lie/Submodule.lean:502]: I think using `with` here is fine; you've already addresse the main concern with `with` by using ` toPartialOrder := SetLike.instPartialOrder` instead of putting `SetLike.instPartialOrder` in the `with` too.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 5]
```diff
@@ -445,30 +455,84 @@ theorem iInf_coe {ι} (p : ι → LieSubmodule R L M) : (↑(⨅ i, p i) : Set M
...
+    (hN : ∀ (i) (x) (hx : x ∈ N i), C x (mem_iSup_of_mem i hx)) (h0 : C 0 (zero_mem _))
+    (hadd : ∀ x y hx hy, C x hx → C y hy → C (x + y) (add_mem ‹_› ‹_›)) {x : M}
+    (hx : x ∈ ⨆ i, N i) : C x hx := by
+  refine' Exists.elim _ fun (hx : x ∈ ⨆ i, N i) (hc : C x hx) => hc
+  refine' iSup_induction N (C := fun x : M ↦ ∃ (hx : x ∈ ⨆ i, N i), C x hx) hx
+    (fun i x hx => _) _ fun x y => _
+  · exact ⟨_, hN _ _ hx⟩
+  · exact ⟨_, h0⟩
+  · rintro ⟨_, Cx⟩ ⟨_, Cy⟩
+    refine' ⟨_, hadd _ _ _ _ Cx Cy⟩
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Submodule.lean:535]: I tried to golf this by proving it in terms of the submodule version, but ran afoul of leanprover/lean4#1926

Comment (ocfnash) [reply Mathlib/Algebra/Lie/Submodule.lean:535]: Thank you for trying all the same!
